US04314061
3,6-bis(2-diethylaminoethoxy)-4,5-diacetamidoacridine
3,6-bis(2-diethylaminoethoxy)-4,5-dinitroacridine is reduced with hydrogen and palladium catalyst in acetic anhydride as the solvent in the reduction, giving the desired product.

reactant | 3,6-bis(2-diethylaminoethoxy)-4,5-dinitroacridine | C(C)N(CCOC=1C=CC2=CC3=CC=C(C(=C3N=C2C1[N+](=O)[O-])[N+](=O)[O-])OCCN(CC)CC)CC | C25H33N5O6
reactant | hydrogen | [H][H] | H2
catalyst | palladium | [Pd] | Pd
solvent | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | 3,6-bis(2-diethylaminoethoxy)-4,5-diacetamidoacridine | C(C)N(CCOC=1C=CC2=CC3=CC=C(C(=C3N=C2C1NC(C)=O)NC(C)=O)OCCN(CC)CC)CC | C29H41N5O4
